US07994317B2
b) Preparation of cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino) cyclohexanecarboxylic acid
To the solution of crude cis-4-(4-amino-6-chloro-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid (˜0.46 mmol) in CH3CN/H2O (5 ml/1 ml) was added hexamethyleneimine (240 μl, ˜5 equivalents). The reaction mixture was stirred at room temperature overnight. The reaction solution was condensed and the crude product was purified by RP-HPLC (Luna 5μ C8(2), 100×21 mm, 15-65% CH3CN/H2O, 0.1% TFA, 18 min) to give the product (65 mg). MS (ES+): m/e 335.3 [M+H]+.

reactant | cis-4-(4-amino-6-chloro-1,3,5-triazin-2-ylamino)cyclohexanecarboxylic acid | ˜0.46 mmol | NC1=NC(=NC(=N1)Cl)N[C@H]1CC[C@H](CC1)C(=O)O | C10H14ClN5O2
reactant | CH3CN H2O | 5 ml | CC#N.O
product | cis-4-(4-amino-6-(azepan-1-yl)-1,3,5-triazin-2-ylamino) cyclohexanecarboxylic acid | 65 mg | NC1=NC(=NC(=N1)N1CCCCCC1)N[C@H]1CC[C@H](CC1)C(=O)O | C16H26N6O2
